US08138187B2
4-Dimethylamino-4-(3-fluoro-phenyl)-cyclohexanone (Ket-13)
[8-(3-Fluoro-phenyl)-1,4-dioxa-spiro[4.5]dec-8-yl]-dimethyl-amine hydrochloride (2.80 g, 8.86 mmol) was dissolved in water (3.7 ml), concentrated hydrochloric acid (5.5 ml) was added and the mixture was stirred at RT for 4 d. When the hydrolysis had ended, the reaction mixture was extracted with ether (2×10 ml) and the aqueous solution was rendered alkaline with 5 N sodium hydroxide solution, while cooling with ice, the reaction mixture was extracted with methylene chloride (3×50 ml) and the organic phase was dried over sodium sulfate and concentrated i. vac. The crude product was purified by flash chromatography with CHCl3/MeOH (20:1).

reactant | [8-(3-Fluoro-phenyl)-1,4-dioxa-spiro[4.5]dec-8-yl]-dimethyl-amine hydrochloride | 8.86 mmol, 2.80 g | Cl.FC=1C=C(C=CC1)C1(CCC2(OCCO2)CC1)N(C)C
reactant | hydrochloric acid | 5.5 ml | Cl | ClH
solvent | water | 3.7 ml | O | H2O
product | 4-Dimethylamino-4-(3-fluoro-phenyl)-cyclohexanone | CN(C1(CCC(CC1)=O)C1=CC(=CC=C1)F)C | C14H18FNO
